US06608203B2
2,2,2-Trifluoro-1-{6-hydroxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3,4-dihydro-1H-isoquinolin-2yl}ethanone
A 1M solution of BBr3 in CH2Cl2 (35.0 ml, 35.0 mmol) was added slowly to a solution of 2,2,2-trifluoro-1-{6-methoxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3,4-dihydro-1H-isoquinolin-2-yl}ethanone (6.26 g, 14.0 mmol) in anhydrous CH2Cl2 (400 ml) at 0° C. under N2. The reaction mixture was warmed to rt and stirred at rt for 21 hr. MeOH (100 ml) was slowly added with stirring and the resulting solution was concentrated in vacuo to a red oil. Purification by flash chromatography, eluting with EtOAc:MeOH (8:2), gave 1.886 g (31% yield) of yellow solid.

reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | 2,2,2-trifluoro-1-{6-methoxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3,4-dihydro-1H-isoquinolin-2-yl}ethanone | 14.0 mmol, 6.26 g | FC(C(=O)N1C(C2=CC=C(C=C2CC1)OC)C1=CC=C(C=C1)OCCN1CCCC1)(F)F | C24H27F3N2O3
reactant | MeOH | 100 ml | CO | CH4O
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 35.0 mmol, 35.0 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-1-{6-hydroxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3,4-dihydro-1H-isoquinolin-2yl}ethanone | 1.886 g, 31% yield | FC(C(=O)N1C(C2=CC=C(C=C2CC1)O)C1=CC=C(C=C1)OCCN1CCCC1)(F)F | C23H25F3N2O3
